*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXN6R3ARA122MJ80G
*//   Date        : 2018/02/16
*//   Update 	  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXN6R3ARA122MJ80G_20deg-C 1 2

C1 4 2 9.72e-04
C2 5 2 1.38e-04
C3 6 2 6.60e-05
R1 3 4 1.20e-02
R2 4 5 8.00e-02
R3 5 6 9.00e-02
L1 1 3 4.20e-09

.ENDS
*$
